US05714487
(7S,8aS)-2-(5-Fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-7-yl benzoate
A solution of 2.0 g (8.4 mmol) of (7R,8aS)-7-hydroxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 6), 1.54 g (12.6 mmol) of benzoic acid, 2.65 g (10.1 mmol) of triphenylphosphine, and 1.59 mL (10.1 mmol) of diethyl azodicarboxylate (DEAD) in 85 mL of THF was stirred at ambient temperature for 16 h. The solvent was evaporated, and flash silica gel chromatography with 1:1 hexane:ethyl acetate gave 2.5 g of partially purified material. A second chromatography with 10:1 methylene chloride:methanol gave 1.68 g (59%) of the title compound. mp (.HCl) 134°-135.5° C. 13C NMR (base, CDCl3): δ 36.1, 43.7, 48.7, 51.2, 60.4, 61.8, 73.2, 128.3, 129.7, 130.1, 133.0, 145.0, 145.3, 150.0, 153.1. 158.9, 166.7. HRMS calcd for C18H20FN4O (MH+): 343.1570, found: 343.1585.

reactant | (7R,8aS)-7-hydroxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 8.4 mmol, 2.0 g | O[C@@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C11H15FN4O
reactant | benzoic acid | 12.6 mmol, 1.54 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triphenylphosphine | 10.1 mmol, 2.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.1 mmol, 1.59 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (7S,8aS)-2-(5-Fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-7-yl benzoate | 1.68 g, 59% | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C18H19FN4O2
